US04092311
Preparation of Intermediate 6-phenyl-3-(1-methylhydrazino)pyridazine
A mixture of 10.0 g. of 6-phenyl-3-chloropyridazine 7.8 g. of methylhydrazine and 75 ml. of n-butanol is refluxed 6 hours. The mixture is cooled and filtered to give product and the filtrate is concentrated and filtered to give additional product. The two crops of product are recrystallized from ethanol to give crystals, m.p. 145°-147° C.

reactant | 6-phenyl-3-chloropyridazine | 7.8 g | C1(=CC=CC=C1)C1=CC=C(N=N1)Cl | C10H7ClN2
reactant | methylhydrazine | CNN | CH6N2
solvent | n-butanol | C(CCC)O | C4H10O
product | 6-phenyl-3-(1-methylhydrazino)pyridazine | C1(=CC=CC=C1)C1=CC=C(N=N1)N(N)C | C11H12N4
